US05116875
3.00 Grams of 2,5-difluoro-4-mercaptoaniline hydrochloride, 6.60 g of 3,4-dichlorobenzotrifluoride and 4.90 g of potassium carbonate were dissolved in 30 ml of dimethylformamide, and the resulting solution was stirred for 6 hours at a temperature of from 100° to 110° C. in an oil bath. Thereafter, the reaction solution was poured into water and extracted with three 100-ml portions of diethyl ether. The extract obtained was washed with water, dried, filtered and concentrated. The residue obtained was subjected to chromatography on silica gel to obtain 3.60 g of 2,5-difluoro-4-[2-chloro-4-(trifluoromethyl)phenylthio]aniline.

reactant | 2,5-difluoro-4-mercaptoaniline hydrochloride | Cl.FC1=C(N)C=C(C(=C1)S)F
reactant | 3,4-dichlorobenzotrifluoride | 6.60 g | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | potassium carbonate | 4.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,5-difluoro-4-[2-chloro-4-(trifluoromethyl)phenylthio]aniline | 3.60 g, Yield 69% | FC1=C(N)C=C(C(=C1)SC1=C(C=C(C=C1)C(F)(F)F)Cl)F | C13H7ClF5NS
